Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: UROLOGY
 
Allergies: 
Penicillins / Erythromycin Base
 
Attending: ___.
 
Chief Complaint:
Nephrolithiasis
 
Major Surgical or Invasive Procedure:
___: Placement of LEFT percutaneous nephrostomy tube 

 
History of Present Illness:
___ who 3d ago noticed gross hematuria followed by L flank pain
and nausea that has waxed and waned but worsened last night at
which point he had a bout of emesis.  Today he called his ___
triage and reported these symptoms and was told to come in to be
evaluated.  A BUN was the only lab checked and was 23.  He was
sent for a CT scan which revealed a large L UPJ stone and was
then sent to the ___ ED for a GU consult as recommended by the
radiology resident who read the study.  His symptoms were
well-controlled with single dose IM toradol and demerol, and he
received a 1L bolus.  Upon arrival at ___ no labs were sent, 
GU
was consulted, and a CT was obtained which revealed the large
stone as described above.  The patient was comfortable.  He gave
a history as above and denied dysuria, hematuria in last 24h,
shaking chills, fever >99, or prior stone history.

 
Past Medical History:
PMH: (minimal PMH per patient, the below from ___ record)
LIPOMA 214.9AZ 
HEARING LOSS, UNSPEC 389.9AB 
OVERWEIGHT 278.02 
HERPES SIMPLEX ___ 
ESOPHAGEAL REFLUX 530.81 
DERMATITIS - ECZEMATOUS 692.9C 
HYPERCHOLESTEROLEMIA 272.0BE 
OTHER OTOSCLEROSIS 387.8 
___ - LAT HUMERAL 726.32AB 
Vertigo 780.4A 

 
Social History:
___
Family History:
neg for stones

 
Physical Exam:
WdWn male, NAD, AVSS
Abmdomen soft
Minimal, resolving flank pain (per patient)
extremities w/out edema
PCN in place, urine yellow
 
Pertinent Results:
CT 12 mm obstructing left UPJ stone with left hydronephrosis and 
perinephric fat stranding.

___ 08:00AM BLOOD WBC-11.1* RBC-3.80* Hgb-11.5* Hct-33.5* 
MCV-88 MCH-30.4 MCHC-34.5 RDW-11.7 Plt ___
___ 11:03PM BLOOD WBC-13.1* RBC-4.08* Hgb-12.6* Hct-35.1* 
MCV-86 MCH-31.0 MCHC-36.0* RDW-12.1 Plt ___
___ 08:00AM BLOOD WBC-12.9* RBC-4.16* Hgb-12.8* Hct-36.9* 
MCV-89 MCH-30.7 MCHC-34.6 RDW-11.8 Plt ___
___ 03:26PM BLOOD WBC-12.1* RBC-4.24* Hgb-12.9* Hct-37.8* 
MCV-89 MCH-30.5 MCHC-34.1 RDW-11.9 Plt ___

___ 08:00AM BLOOD Glucose-93 UreaN-15 Creat-1.1 Na-138 
K-4.1 Cl-101 HCO3-29 AnGap-12
___ 08:00AM BLOOD Glucose-98 UreaN-15 Creat-1.5* Na-137 
K-4.5 Cl-100 HCO3-28 AnGap-14
___ 03:26PM BLOOD Glucose-87 UreaN-17 Creat-1.4* Na-138 
K-4.1 Cl-101 HCO3-26 AnGap-15
___ 08:00AM BLOOD Calcium-8.9 Phos-3.0 Mg-2.1
___ 08:00AM BLOOD Calcium-9.3 Phos-3.1 Mg-2.1
___ 03:26PM BLOOD Calcium-9.5 Phos-2.7 Mg-2.1
 
Brief Hospital Course:
Mr. ___ is a ___ male admitted to urology service after an 
ED visit a few days prior, ___. He reported gross hematuria 
followed by LEFT flank pain and nausea that waxed and waned but 
worsened la ___ during the night at which point he had a bout 
of emesis. He was admitted to urology and scheduled with 
Interventional radiology where on hospital day two, ___, he 
underwent placement of a left percutaneous nephrostomy tube. He 
tolerated the procedure well and was kept overnight for pain 
management and observation. On Hospital day 3, post-procedure 
day 1, he was discharged home with visiting nurse services to 
facilitate care of his PCN. He was tolerating a regular diet, 
pain was well controlled with oral analgesics and he no longer 
had fever, nausea, vomiting. He is given explicit instructions 
to complete his course of antibiotics and follow-up with Dr. 
___ definitive stone management and PCN plan. 

 
Medications on Admission:
NONE

ALLERGIES: PCN
 
Discharge Medications:
1. acetaminophen 325 mg Tablet Sig: Two (2) Tablet PO Q4H (every 
4 hours).  
2. oxycodone 5 mg Tablet Sig: One (1) Tablet PO Q4H (every 4 
hours) as needed for pain.
Disp:*40 Tablet(s)* Refills:*0*
3. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).
Disp:*60 Capsule(s)* Refills:*2*
4. ciprofloxacin 500 mg Tablet Sig: One (1) Tablet PO Q12H 
(every 12 hours) for 5 days.
Disp:*10 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
12 mm obstructing left UPJ stone with left hydronephrosis,  
leukocytosis, symptoms or renal dysfunction (elevated 
creatinine)

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
-You will be discharged home with visiting nurse services to 
facilitate your care of your PERCUATANEOUS NEPHROSTOMY TUBE.

-please also reference the provided educational handout on 
caring for your nephrostomy tube (provided by nursing)

-No vigorous physical activity for 2 weeks AND while nephrostomy 
tube is in place

-Expect to see occasional blood in your urine and to experience 
urgency and frequency over the next month.

-The kidney stone may or may not have been removed AND/or there 
may fragments/others still in the process of passing.

-You may experience some pain associated with spasm of your 
ureter. This is normal. Take the narcotic pain medication as 
prescribed if additional pain relief is needed.

-Tylenol should be your first line pain medication, a narcotic 
pain medication has beenprescribed for breakthrough pain >4. 
Replace Tylenol with narcotic pain medication.

-Max daily Tylenol (acetaminophen) dose is 4 grams from ALL 
sources, 
note that narcotic pain medication also contains Tylenol

-Make sure you drink plenty of fluids to help keep yourself 
hydrated and facilitate passage of stone fragments.

-You may shower but do not bathe or immerse in water.

-Do not drive or drink alcohol while taking narcotics or operate 
dangerous machinery

-Colace has been prescribed to avoid post surgical constipation 
and constipation related tonarcotic pain medication. Discontinue 
if loose stool or diarrhea develops.  Colace is a stool 
softener, NOT a laxative

-Resume all of your pre-admission medications EXCEPT as 
otherwise noted.

-Call your urologist’s office for follow-up AND if you have any 
questions.

-Please complete a full course of antibiotics as prescribed 
(Ciprofloxacin)

-resume your regular home diet and remember to drink plenty of 
fluids to keep hydrated and to prevent constipation

-___ medical attention for fevers (temp>101.5), worsening pain, 
drainage or excessive bleeding from incision, chest pain or 
shortness of breath.

 
Followup Instructions:
___